US07084139B2
6-Chloro-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}-N-(2-oxobutyl)naphthalene-2-sulfonamide
To a solution of (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-oxobutyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid (0.035 g) in DCM (2 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.044 g), HOBT (0.031 g) and triethylamine (0.064 ml) and the mixture was stirred at room temperature for 30 min. Morpholine (0.02 ml) was added and the resultant mixture stirred at room temperature for 16 h. The mixture was partitioned between DCM and water. The aqueous layer was re-extracted with DCM and the combined, dried (over magnesium sulphate) organic extracts were concentrated under reduced pressure. The residue was purified using mass directed preparative h.p.l.c. to give the title compound (0.008 g) as a white solid.

reactant | (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-oxobutyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid | 0.035 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O)CC(CC)=O | C21H23ClN2O6S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.044 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.031 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Morpholine | 0.02 ml | N1CCOCC1 | C4H9NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.064 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-N-{(3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-yl}-N-(2-oxobutyl)naphthalene-2-sulfonamide | 0.008 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N(CC(CC)=O)[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O | C25H30ClN3O6S
